US05449686
5b. 3-Cyclopentyloxy-4-difluoromethoxybenzaldehyde
To a mixture of 3-hydroxy-4-difluoromethoxybenzaldehyde 2.9 g, 15 mmol) and powdered potassium carbonate (3.2 g, 23 mmol) in dimethylformamide (15 mL) under an argon atmosphere was added bromocyclopentane (2.5 mL, 23 mmol) and the mixture was stirred and heated at 50° C. for 1 h and at 80°-85° C. 1.5 h. The mixture was allowed to cool and was partitioned between ethyl acetate and water. The organic extract was washed three times with water, was dried (sodium sulfate) and the solvent was removed in vacuo. Purification by flash chromatography, eluting with 20-30% ether/hexanes, provided a yellow solid (3.5 g, 89%).

reactant | 3-hydroxy-4-difluoromethoxybenzaldehyde | 15 mmol, 2.9 g | OC=1C=C(C=O)C=CC1OC(F)F | C8H6F2O3
reactant | potassium carbonate | 23 mmol, 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromocyclopentane | 23 mmol, 2.5 mL | BrC1CCCC1 | C5H9Br
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 3-Cyclopentyloxy-4-difluoromethoxybenzaldehyde | 3.5 g, 89% | C1(CCCC1)OC=1C=C(C=O)C=CC1OC(F)F | C13H14F2O3
